US08034938B2
Methyl O-benzyl-N-trityl-L-threoninate (137 g, 304 mmol) was dissolved in a minimal amount of Et2O and added dropwise to a mixture of lithium aluminum hydride (12.0 g, 333 mmol) and Et2O (1.5 L) at 0° C. The resulting mixture was stirred for 1 hour at 0° C. Ethyl acetate was then carefully added to the reaction mixture at 0° C. until no further gas evolution was observed and then the reaction mixture was treated with methanol until no further gas evolution was observed. The reaction mixture was then treated sequentially with H2O (12 mL), 6 M aqueous NaOH solution (12 mL), and H2O (36 mL) and stirred for 30 minutes. The resulting slurry was filtered through a pad of CELITE filter agent. The pad was rinsed repeatedly with Et2O and the combined filtrates were dried over MgSO4 and concentrated under reduced pressure to give a colorless oil. The oil was dissolved in 90 mL of methanol and treated with 4M HCl in dioxane (227 mL, 908 mmol). The resulting homogeneous solution was stirred for 2 hours at ambient temperature. The solvent was then removed under reduced pressure to afford a yellow solid. The yellow solid was stirred in Et2O (500 mL) and filtered to give 43 g of (2R)-2-amino-3-(benzyloxy)propan-1-ol hydrochloride as a white crystalline solid.

reactant | Methyl O-benzyl-N-trityl-L-threoninate | 304 mmol, 137 g | C(C1=CC=CC=C1)O[C@@H]([C@H](NC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)C(=O)OC)C | C31H31NO3
reactant | lithium aluminum hydride | 333 mmol, 12.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | NaOH | 6 M, 12 mL | [OH-].[Na+]
reactant | HCl | 4M | Cl | ClH
reactant | dioxane | 908 mmol, 227 mL | O1CCOCC1 | C4H8O2
solvent | Et2O | CCOCC | C4H10O
solvent | methanol | 90 mL | CO | CH4O
solvent | Et2O | 500 mL | CCOCC | C4H10O
solvent | Et2O | 1.5 L | CCOCC | C4H10O
solvent | H2O | 36 mL | O | H2O
solvent | H2O | 12 mL | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (2R)-2-amino-3-(benzyloxy)propan-1-ol hydrochloride | 43 g | Cl.N[C@H](CO)COCC1=CC=CC=C1 | InChI=1S/C10H15NO2.ClH/c11-10(6-12)8-13-7-9-4-2-1-3-5-9;/h1-5,10,12H,6-8,11H2;1H/t10-;/m1./s1
